US04806549
3-Butyryl-4-chloro-8-methylquinoline (4.95 g, 20 mmol), 4-methoxy-2-methylaniline (5.15 ml, 40 mmol) and 1,4-dioxan (20 ml) were heated at reflux for 1 hour, the solvent evaporated, the residue taken up in dichloromethane, washed with aqueous sodium bicarbonate, dried and evaporated. Recrystallisation from methanol gave 3-butyryl-4-(4-methoxy-2-methylphenylamino)-8-methylquinoline (5.30 g), m.p. 114°-115°.

reactant | 3-Butyryl-4-chloro-8-methylquinoline | 20 mmol, 4.95 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)C | C14H14ClNO
reactant | 4-methoxy-2-methylaniline | 40 mmol, 5.15 ml | COC1=CC(=C(N)C=C1)C | C8H11NO
solvent | 1,4-dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(4-methoxy-2-methylphenylamino)-8-methylquinoline | 5.30 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)OC)C)C | C22H24N2O2
